US09260410B2
To a solution of ethyl 2-(2-(tert-butoxycarbonylamino)pyridin-4-yl)acetate (WO 2007089512) (10.0 g, 35.7 mmol) under N2 in THF (100 mL), at −78° C., was added a solution of DIBAL in THF (1.0M, 71.0 mL, 71.0 mmol) over 1 hr. The reaction mixture was stirred at −78 to −60° C. for 40 min and was then warmed to −15° C. over 1 hr. The solution was re-cooled to −78° C. and was treated with a further aliquot of DIBAL solution (36.0 mL, 36.0 mmol) and was allowed to warm to −40° C. and stirred for 1 hr. The reaction was quenched by the cautious addition of water (10 mL), followed MgSO4. The solids were removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, 330 g, EtOAc in hexanes, 65% v/v, isocratic elution) to give tert-butyl 4-(2-hydroxyethyl)pyridin-2-ylcarbamate, (6.0 g, 64%) as a yellow solid: m/z 239 (M+H)+ (ES+).

reactant | ethyl 2-(2-(tert-butoxycarbonylamino)pyridin-4-yl)acetate | 35.7 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)OCC | C14H20N2O4
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 36.0 mmol, 36.0 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 71.0 mmol, 1.0M, 71.0 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-hydroxyethyl)pyridin-2-ylcarbamate | 6.0 g, 64% | OCCC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C12H18N2O3
